US05445762
7,13-Bis(tert.-butylcarbonyl)-1,4,10-trioxa-7,13-diazacyclopentadecane
Analogously to Example 2 from 1,4,10-trioxa-7,13-diazacyclopentadecane and pivalyl chloride.

reactant | 1,4,10-trioxa-7,13-diazacyclopentadecane | O1CCOCCNCCOCCNCC1 | C10H22N2O3
reactant | pivalyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 7,13-Bis(tert.-butylcarbonyl)-1,4,10-trioxa-7,13-diazacyclopentadecane | C(C)(C)(C)C(=O)N1CCOCCOCCN(CCOCC1)C(=O)C(C)(C)C | C20H38N2O5
